US07884109B2
To a solution of (R)-tert-butyl 4-fluoro-2-(4-(8-fluorochroman-4-ylamino)-5-nitropyrimidin-2-ylamino)phenylcarbamate (141 mg) in THF (20 mL) was added a premixed solution of sodium hydrosulfite (0.6 g) and sodium bicarbonate (0.3 g) in water (50 mL). MeOH (5 mL) was also added to aid solution of the mixture, which was stirred at room temperature for 30 min, when sodium chloride was added to saturate the solution. The resultant mixture was extracted with EtOAc (2×), the combined organics were dried, filtered and evaporated to yield (R)-tert-butyl 2-(5-amino-4-(8-fluorochroman-4-ylamino)pyrimidin-2-ylamino)-4-fluorophenylcarbamate that was used as such for the next step, MH+=485.

reactant | (R)-tert-butyl 4-fluoro-2-(4-(8-fluorochroman-4-ylamino)-5-nitropyrimidin-2-ylamino)phenylcarbamate | 141 mg | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)N[C@@H]1CCOC2=C(C=CC=C12)F)[N+](=O)[O-] | C24H24F2N6O5
reactant | sodium hydrosulfite | 0.6 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 0.3 g | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | (R)-tert-butyl 2-(5-amino-4-(8-fluorochroman-4-ylamino)pyrimidin-2-ylamino)-4-fluorophenylcarbamate | NC=1C(=NC(=NC1)NC1=C(C=CC(=C1)F)NC(OC(C)(C)C)=O)N[C@@H]1CCOC2=C(C=CC=C12)F | C24H26F2N6O3
